US04182897
In 250 ml of ethanol were suspended 28.5 g of the p-chlorophenyl m-nitro-α-methylcinnamate thus obtained and 3.0 g of 10% palladium-carbon, and gaseous hydrogen was introduced into the resulting suspension with stirring. About 8.5 liters of hydrogen was absorbed in 2 hours. After the reaction, the palladium catalyst was filtered off and the solvent was removed by distillation under reduced pressure. The residue was dissolved in 200 ml of ethyl ether, and gaseous hydrogen chloride was introduced into the resulting solution to obtain p-chlorophenyl α-methyl-β-(m-aminophenyl)-propionate hydrochloride in the form of colorless crystals. Yield: 23.0 g (78.5%); melting point: 85°-95° C.; IR (cm-1): 3500-2500, 1748, 1492.

reactant | p-chlorophenyl m-nitro-α-methylcinnamate | 28.5 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OC2=CC=C(C=C2)Cl)C)C=CC1 | C16H12ClNO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 3.0 g | [C].[Pd]
product | p-chlorophenyl α-methyl-β-(m-aminophenyl)-propionate hydrochloride | Cl.CC(C(=O)OC1=CC=C(C=C1)Cl)CC1=CC(=CC=C1)N | InChI=1S/C16H16ClNO2.ClH/c1-11(9-12-3-2-4-14(18)10-12)16(19)20-15-7-5-13(17)6-8-15;/h2-8,10-11H,9,18H2,1H3;1H
